US09399640B2
Step 3. 6-Bromo-5-phenoxy-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine
A suspension of 6-bromo-5-phenoxy-3-phenyl-2H-1,4-benzoxazine (0.0692 g, 0.182 mmol) in ethanol (1.20 mL) and water (0.240 mL) was treated with sodium tetrahydroborate (13.8 mg, 0.364 mmol) and stirred at 90° C. for 2 h. The reaction mixture was diluted with water and ethyl acetate. Layers were separated and the organic layer was washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo to give the crude product. Purification by flash column chromatography (100% hexanes to 30% EtOAc/hexanes) gave the desired product (67.3 mg, 97%) as a colorless oil. LCMS calculated for C20H17BrNO2 (M+H)+: m/z=382.0, 384.0. found: 382.0, 384.0.

reactant | 6-bromo-5-phenoxy-3-phenyl-2H-1,4-benzoxazine | 0.182 mmol, 0.0692 g | BrC=1C=CC2=C(N=C(CO2)C2=CC=CC=C2)C1OC1=CC=CC=C1 | C20H14BrNO2
reactant | sodium tetrahydroborate | 0.364 mmol, 13.8 mg | [BH4-].[Na+]
solvent | ethanol | 1.20 mL | C(C)O | C2H6O
solvent | water | 0.240 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-5-phenoxy-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine | 67.3 mg, 97% | BrC=1C=CC2=C(NC(CO2)C2=CC=CC=C2)C1OC1=CC=CC=C1 | C20H16BrNO2
